US06248765B1
3-(1H-Imidazol-4-yl)-4-phenyl-1-butene
10 mmol of 3-phenylpropyltriphenylphosphonium bromide, 10 mmol of (1-triphenylmethyl-1H-imidazol-4-yl)methanal (J. L. Kelley, C. A. Miller, E. W. Mc Lean, J. Med. Chem. 1977, 20, 721) and 12 mmol of potassium of t-butanolate are stirred for 24 hours in 50 ml THF. The solvent is evaporated off under reduced pressure, hydrolysed with water and extracted using chloroform. The concentrated organic extract is heated from reflux in 30 ml 2N HCl and 30 ml of acetone for 1 hour. The solvent is evaporated off under reduced pressure and triphenylmethanol is extracted using diethyl ether. The aqueous phase is alkalized using ammonia and the crude product is extracted using diethyl ether. The aqueous phase is alkalized using diethyl ether and crystallized as hydrogen maleate from diethyl ether and ethanol.

reactant | 3-phenylpropyltriphenylphosphonium bromide | 10 mmol | [Br-].C1(=CC=CC=C1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (1-triphenylmethyl-1H-imidazol-4-yl)methanal | 10 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
reactant | potassium | 12 mmol | [K] | K
reactant | t-butanolate | C(C)(C)(C)[O-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(1H-Imidazol-4-yl)-4-phenyl-1-butene | N1C=NC(=C1)C(C=C)CC1=CC=CC=C1 | C13H14N2
